*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: read_circuit_tb
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Sat Apr  5 16:31:41 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : nand
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt nand a b y
m1 net4 b gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m0 y a net4 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m3 y b vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m2 y a vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends nand

********************************************************************************
* Library          : group8
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv in out
m0 out in vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m1 out in gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
.ends inv

********************************************************************************
* Library          : group8
* Cell             : invx4
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt invx4 in out
m0 out in vdd! pfet nfin=8 adeo=2.268e-15 aseo=2.268e-15 pdeo=4.68e-07 pseo=4.68e-07
m1 out in gnd! nfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends invx4

********************************************************************************
* Library          : group8
* Cell             : read_circuit
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt read_circuit bl blbar out
xi0 bl net6 net2 nand
xi1 net2 out inv
xi2 blbar net6 invx4
.ends read_circuit

********************************************************************************
* Library          : group8
* Cell             : read_circuit_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 bl blb out read_circuit
v3 bl gnd! dc=0 pulse ( 0.8 0 0 5p 5p 45p 100p )
v2 blb gnd! dc=0 pulse ( 0.8 0 0 5p 5p 20p 50p )
v5 vdd! gnd! dc=0.8









.tran 0.1p 300p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(bl) v(blb) v(xi0.net6) v(xi0.out)








.end
